US05750531
Synthesis of 5,6-dimethyl-4-(4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.24 ml, 2.5 mmol) was added to a mixture solution of 5,6-dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.33 g, 1.2 mmol) and dimethylformamide(10 ml), 0.31 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoroaniline | 2.5 mmol, 0.24 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5,6-dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 1.2 mmol, 0.33 g | CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)Cl | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-4-(4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.31 g, Yield: 67% | Cl.CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)NC1=CC=C(C=C1)F | InChI=1S/C21H21FN4.ClH/c1-14-15(2)23-21(25-20(14)24-19-9-7-18(22)8-10-19)26-12-11-16-5-3-4-6-17(16)13-26;/h3-10H,11-13H2,1-2H3,(H,23,24,25);1H
